US08349880B2
Methyl 3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (0.500 g, 1.23 mmol), from preparation F) and 6-chloro-2-(4-ethoxyphenyl)hexanoic acid (0.367 g, 1.36 mmol, from preparation AAN) were coupled [N-methylmorpholine (0.678 mL, 6.17 mmol) was substituted for N,N-diisopropylethylamine] and then reacted with hydrazine (0.155 mL, 4.94 mmol) using a procedure analogous to Step A of Example 13. After an aqueous workup, 5-(5-chloro-1-(4-ethoxyphenyl)pentyl)-N-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine was obtained as a brown residue. The crude product was used in the next step without purification. LC-MS (M+H)+ 496.2.

reactant | Methyl 3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 1.23 mmol, 0.500 g | I.COC=1C=C(C=CC1N1N=C(N=C1)C)NC(=N)SC
reactant | 6-chloro-2-(4-ethoxyphenyl)hexanoic acid | 1.36 mmol, 0.367 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OCC | C14H19ClO3
reactant | N-methylmorpholine | 6.17 mmol, 0.678 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 4.94 mmol, 0.155 mL | NN | H4N2
product | 5-(5-chloro-1-(4-ethoxyphenyl)pentyl)-N-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | ClCCCCC(C1=CC=C(C=C1)OCC)C1=NC(=NN1)NC1=CC(=C(C=C1)N1N=C(N=C1)C)OC | C25H30ClN7O2
